US05128355
Part A: Preparation of Ethyl 3-(4-methylphenyl)-3-oxo-2-(allyl)propanoate
Ethyl 3-(4-methylphenyl)-3-oxopropanoate (prepared as described in W. Wierenga and H. I. Skulnick, J. Org. Chem. (1979), 44, 310) (63.66 g, 309 mmol, 1 eq) was added to a freshly prepared sodium ethoxide solution (Na, 7.43 g, 323 mmol, 1.05 eq; EtOH, 250 mL). The ethanol was removed in vacuo and the residue was dissolved in DMF (250 mL). Allyl bromide (29.3 mL, 338 mmol, 1.1 eq) followed by sodium iodide (4.56 g, 304 mmol, 1 eq) were then added and the contents stirred overnight at room temperature. The DMF was removed in vacuo, water (250 mL) was added and the aqueous layer extracted with ethyl acetate (3×200 mL). The organic layers were dried (MgSO4) and the solvent removed in vacuo to yield 74.21 g of an amber oil. NMR (200 MHz, CDCl3) δ7.81 (d, 2H, J=10Hz); 7.30 (d, 2H, J=10Hz); 5.96-5.72 (m, 1H); 5.21-5.00 (m, 2H); 4.41 (t, 1H, J=7Hz); 4.16 (q, 2H, J=7Hz); 2.78 (t, 2H, J=7Hz); 2.42 (s, 3H); 1.18 (t, 3H, J=7Hz). Anal. Calcd. for C15H18O3 : C, 73.15; H, 7.37. Found: C, 73.10; H, 7.38.

reactant | Ethyl 3-(4-methylphenyl)-3-oxopropanoate | 309 mmol, 63.66 g, 1 eq | CC1=CC=C(C=C1)C(CC(=O)OCC)=O | C12H14O3
reactant | sodium ethoxide | 323 mmol, 250 mL, 7.43 g, 1.05 eq | [O-]CC.[Na+]
reactant | Allyl bromide | 338 mmol, 29.3 mL, 1.1 eq | C(C=C)Br | C3H5Br
reactant | sodium iodide | 304 mmol, 4.56 g, 1 eq | [I-].[Na+]
product | Ethyl 3-(4-methylphenyl)-3-oxo-2-(allyl)propanoate | 74.21 g | CC1=CC=C(C=C1)C(C(C(=O)OCC)CC=C)=O | C15H18O3
